US04456772
18.6 g (0.1 mol) of 4-chloro-3-nitrobenzaldehyde and 6.4 g (0.11 mol) of potassium fluoride in 50 ml of dimethylformamide are stirred at 160° C. After 3 hours, 4-chloro-3-nitrobenzaldehyde is no longer detectable in the reaction mixture, according to gas chromatography. Instead, 4-fluoro-3-nitrobenzaldehyde has formed quantitatively.

reactant | 4-chloro-3-nitrobenzaldehyde | 0.1 mol, 18.6 g | ClC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | potassium fluoride | 0.11 mol, 6.4 g | [F-].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-fluoro-3-nitrobenzaldehyde | FC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4FNO3
